US07786111B2
(d) 8-{2-[2-(3,4-difluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
357 mg (1 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 185 mg (1 mmol) of 2-(3,4-difluorophenyl)-1,1-dimethylethylamine are stirred for 30 minutes in 5 mL tetrahydrofuran at ambient temperature. It is cooled to 0° C. and, under an argon atmosphere, 1.5 mL of a 2 molar solution of lithium borohydride in tetrahydrofuran is added dropwise. The mixture is stirred for 30 minutes at ambient temperature, combined with 10 mL dichloromethane, and 3 mL water, stirred for a further hour and then filtered through an EXTRELUT® column. The eluate containing the ethanol amine is freed from solvent. The residue is dissolved in methanol and hydrogenated with palladium on charcoal (10%) as catalyst at 2.5 bar and ambient temperature. Then the catalyst is separated off and the crude product is purified by chromatography. White solid. Yield: 31 mg (6%, trifluoroethyl acetate); mass spectroscopy: [M+H]+=393.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 2-(3,4-difluorophenyl)-1,1-dimethylethylamine | 1 mmol, 185 mg | FC=1C=C(C=CC1F)CC(C)(C)N | C10H13F2N
reactant | lithium borohydride | [BH4-].[Li+]
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 8-{2-[2-(3,4-difluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | FC=1C=C(C=CC1F)CC(C)(C)NCC(O)C1=CC(=CC=2NC(COC21)=O)O | C20H22F2N2O4
